US04743685
(B) 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid, hydrazide
3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid, 2-[(1,1-dimethylethoxy)carbonyl]hydrazide (3.86 g) was stirred for one-half hour in 30 ml of trifluoroacetic acid at 0°-5° C. The trifluoroacetic acid salt of the title compound precipitated after adding 50 ml of diethylether. The salt was suspended in 30 ml of water, stirred with 2 g of sodium bicarbonate for 20 minutes, and the title compound was filtered off, washed with water and dried yielding a beige powder. Yield: 2.75 g.

reactant | 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid, 2-[(1,1-dimethylethoxy)carbonyl]hydrazide | 3.86 g | CC(C)(OC(=O)NNC(C=CC=1NC=C(C(C1)=O)OCC1=CC=CC=C1)=O)C | C20H23N3O5
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid, hydrazide | O=C1C=C(NC=C1OCC1=CC=CC=C1)C=CC(=O)NN | C15H15N3O3
